Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transient memory loss
 
Major Surgical or Invasive Procedure:
Lumpectomy for breast cancer ___ years ago
 
History of Present Illness:
HPI: The patient is a ___ right-handed female with
history of atrial fibrillation not on any anticoagulation takes
amlodipine 5 mg daily for rate control, osteoporosis, history of
breast cancer ___ years ago status post chemo and radiation and
lymphectomy.  She she was brought here by EMS for evaluation of
an episode of transient retrograde amnesia and is currently back
to baseline.

Patient was in her usual state of health today after completing 
a
flight from ___ this morning. She completed her errands
with no issue. Around 6:45 ___ she was entering ___ to
watch ___ game when started reporting "I do not remember 
what
happened the last 5min, I don't remember today".  She was
speaking in clear sentences responding to stimuli following
commands walking well and was aware of her surroundings.  There
was no behavioral arrest, no convulsions, no loss of
consciousness, no facial droop, no hallucinations, no visual
symptoms, weakness or sensory changes.  Her daughter patient was
not aware of the date or day but was oriented to place and self. 

Her long-term memory seem to be intact and she recognized her
family members and where she lived, her phone number and what
happened the day prior.  The entire episode lasted approximately
1 hour and she was back to her normal self around 7:40 ___ with 
no
evidence of post ictal confusion sleepiness or drowsiness.

Patient is currently now at her baseline and recalls her day. 
The only gap she has is between 645 and 7:45 ___.  She states she
remembers her entire day up to the point of ___ but
does not remember walking in or saying any of the things fer
family reports.  Her memory picks up once more while she is in
EMS ride.  She has no complaints currently.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel or bladder incontinence 
or
retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
Atrial fibrillation
Breast cancer diagnosed ___ years ago status post lumpectomy and
radiation and chemotherapy 
osteoporosis
 
Social History:
___
Family History:
No family history of seizures.  Her mother had stroke at ___
years.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
 Vitals: 97.6F, HR 75, BP 141/86, RR 16, 98% RA 
 General: NAD, resting in bed
 HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
 Neck: Supple
 ___: RRR
 Pulmonary: CTAB
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. essential tremor right 
hand.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5
 R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    2   2
 Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - deffered 

DISCHARGE PHYSICAL EXAM: 

 
Pertinent Results:
Labs: 

___ 01:25PM BLOOD WBC-6.1 RBC-4.35 Hgb-12.5 Hct-39.2 MCV-90 
MCH-28.7 MCHC-31.9* RDW-14.1 RDWSD-46.6* Plt ___
___ 01:25PM BLOOD Neuts-65.8 ___ Monos-6.4 Eos-1.8 
Baso-0.7 Im ___ AbsNeut-4.04 AbsLymp-1.54 AbsMono-0.39 
AbsEos-0.11 AbsBaso-0.04
___ 01:25PM BLOOD Plt ___

___ 07:20PM BLOOD ALT-<5 AST-69* AlkPhos-38 TotBili-0.4
___ 07:20PM BLOOD cTropnT-<0.01
___ 07:20PM BLOOD Albumin-4.1 Calcium-9.0 Phos-3.6 Mg-2.2

IMAGING:

CT Head/CTA head and neck ___: 
Head CT: No intracranial hemorrhage or acute territorial 
infarct. 
CTA head: Patent circle ___ and ___ territories. 
CTA neck: Unremarkable neck vessels. 

MRI Brain without contrast ___: 
No acute intracranial process. Specifically, no evidence of 
infarction. 

EEG ___ (Final report pending): 
-Bursts of L temporal lobe slowing, no epileptiform discharges 
or seizures
 
Brief Hospital Course:
Brief Hospital Course: 

Ms. ___ is a very pleasant ___ R handed woman with a 
history of paroxysmal atrial fibrillation diagnosed over ___ 
years ago, not on anticoagulation, hypertension, osteoporosis, 
and history of breast cancer ___ years ago s/p chemotherapy, 
radiation, and lumpectomy now in remission. She presented to 
___ on ___ with her family for sudden confusion and 
anterograde amnesia. She was admitted to the stroke service for 
evaluation of possible transient global amnesia, vs. seizure vs. 
TIA/ Stroke. 

#Anterograde amnesia/confusion: 
-Patient underwent ct head in the ER with CTA head and neck 
which was unremarkable. She had stroke risk factor labs drawn 
including an LDL which was pending at discharge, A1C of 5.6, and 
a TSH of 3.2. 
-She was placed on an aspirin 81mg daily in the ER 
-The next morning on ___ the patient underwent an extended 
routine EEG and MRI brain. The MRI brain did not reveal any 
acute strokes, no large areas of encephalomalacia to suggest 
prior large infarcts, nor any hippocampal DWI changes that can 
be seen in TGA. 
-EEG was read by the epilepsy fellow/attending as bursts of L 
temporal slowing without epileptiform discharges. The final 
report is pending. For this, we will set the patient up with 
outpatient neurology f/u and repeat EEG in about 3-months. She 
did not have any epileptiform activity and therefore the 
likelihood that this represented a seizure is very low 
-Her neurologic examination remained stable during the entire 
admission without any further episodes of confusion, memory 
loss, nor any other focal deficits 

#Paroxysmal Atrial Fibrillation: 
-Patient's ___ score was calculated at 3 , scoring points 
for her age, sex, and hypertension history, which results in a 
3.2% risk of stroke. Given that we feel this episode was more 
likely a TGA and not a true stroke or TIA, we did not want to 
start the patient on systemic anticoagulation. In addition, her 
MRI brain did not reveal any evidence of prior embolic strokes 
in the past.  
-We counseled the patient on taking a baby aspirin 81mg daily 
for stroke prevention 

# Hypertension: 
-Patient was continued on amlodipine 5mg daily which is her home 
medication without issue 

#Breast cancer: 
-In remission, no issues during hospitalization. 

Transitional Issues: 
1. Please follow-up in the Neurology Clinic with Dr. ___. 
___ on ___ at 3pm 
2. We have ordered an outpatient EEG to be done  prior to her 
outpatient neurology appointment. The point of this study is to 
ensure that the EEG remains stable as compared to the one we did 
during her hospitalization and has not changed. 
3. Patient to continue taking aspirin 81mg daily 
4. Patient to follow-up with her PCP in the next two weeks 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  amLODIPine 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient global amnesia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ came to the hospital because ___ had an episode of amnesia. 
We did a CT scan and an MRI of your brain, which did not show a 
stroke. We also did an EEG, which showed that your brain waves 
were slightly slower on one side compared to the other, and did 
not show any seizures. This slowing is probably from scar tissue 
in your brain that we are unable to see on MRI. 
We think that your memory loss is either from a condition called 
Transient Global Amnesia, or potentially from a seizure.
We would like ___ to have a repeat EEG in 3 months and follow up 
in neurology clinic as an outpatient. 
If ___ have any more episodes of memory loss, please come back 
to the ED for evaluation. 
___ have previously been diagnosed with atrial fibrillation, but 
were not on treatment because your risk of stroke was low. ___ 
were previously told to take Aspirin daily, but ___ hadn't been 
doing this regularly. We would recommend taking Aspirin 81mg 
daily for stroke prevention, and we started this medication 
while ___ were in the hospital. 
It was a pleasure taking care of ___ and we wish ___ the best!
 
Followup Instructions:
___